US05143923
N-Methyl-N-[2-(1-(6-fluoro-1,2-benzisoxazol-3-yl)-4-piperidinyl)ethyl]-1,2-benzisoxazole-3-carboxamide
Under a nitrogen atmosphere, methanesulfonyl chloride (3.70 g) was rapidly added to a solution of N-methyl-N-(2-hydroxyethyl)-1,2-benzisoxazole-3-carboxamide (7.10 g), triethylamine (3.27 g), and tetrahydrofuran (100 ml) at 0° C., and the mixture was stirred at 0° C. for 60 mins. To the mixture was rapidly added a suspension of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (8.10 g), triethylamine (7.26 g), and tetrahydrofuran (80 ml), and the mixture was heated under reflux for 16 hrs. Water was added, and the solution was concentrated under reduced pressure. The residue was diluted with 10% sodium hydroxide solution and extracted with 50% ether-toluene. The combined extracts were washed with water and brine, dried over anhydrous potassium carbonate, filtered, and the filtrate was concentrated under reduced pressure. The residue was chromatographed on silica gel eluting with ethyl acetate. The appropriate fractions were collected and evaporated. The residue was recrystallized from ether to afford 3.01 g (22.1%) of product, mp 94°-97° C.

reactant | methanesulfonyl chloride | 3.70 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-methyl-N-(2-hydroxyethyl)-1,2-benzisoxazole-3-carboxamide | 7.10 g | CN(C(=O)C1=NOC2=C1C=CC=C2)CCO | C11H12N2O3
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 8.10 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | triethylamine | 7.26 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 3.27 g | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Methyl-N-[2-(1-(6-fluoro-1,2-benzisoxazol-3-yl)-4-piperidinyl)ethyl]-1,2-benzisoxazole-3-carboxamide | 3.01 g, 22.1% | CN(C(=O)C1=NOC2=C1C=CC=C2)CCC2CCN(CC2)C2=NOC1=C2C=CC(=C1)F | C23H23FN4O3
